V:Vcc nr gnd V=10
V:Vbe nb gnd V=$Vbe
R:Rload nr nc R=$Rload
BJT:Q1 gnd nb nc @NPN
.dc
  .sweep $Rload type="lin" start=2000 stop=100 points=5
  .sweep $Vbe type="lin" start=0.5 stop=0.8 points=100
